US04171367
N-(1,3-Diphenyl-5-pyrazolyl)-S-methyl isothiourea hydroiodide
(1,3-Diphenyl-5-pyrazolyl) thiourea (119.7 g.) and 63.9 g. methyl iodide were reacted as described in Example V to give 156.1 g. of product, mp 178°-182° C.

reactant | (1,3-Diphenyl-5-pyrazolyl) thiourea | 119.7 g | C1(=CC=CC=C1)N1N=C(C=C1NC(=S)N)C1=CC=CC=C1 | C16H14N4S
reactant | methyl iodide | CI | CH3I
product | N-(1,3-Diphenyl-5-pyrazolyl)-S-methyl isothiourea hydroiodide | I.C1(=CC=CC=C1)N1N=C(C=C1NC(SC)=N)C1=CC=CC=C1 | InChI=1S/C17H16N4S.HI/c1-22-17(18)19-16-12-15(13-8-4-2-5-9-13)20-21(16)14-10-6-3-7-11-14;/h2-12H,1H3,(H2,18,19);1H
